US09421205B2
(f) Ethyl 2-(4-ethynylpyrimidin-5-yl)acetate (I110)
To a solution of ethyl 2-(4-((triethylsilyl)ethynyl)pyrimidin-5-yl)acetate (I109) (1.174 g, 3.856 mmol) in dry THF (40 mL) under an atmosphere of nitrogen was added acetic acid (0.243 mL, 4.24 mmol) followed by TBAF (1.0 M in THF, 4.049 mL, 4.049 mmol) dropwise at 0° C. The reaction was stirred at this temperature for 5 minutes and was then poured into sat. aq. NaHCO3 (100 mL) and DCM (100 mL). The layers were separated and the aqueous layer was extracted with DCM (2×100 mL). The combined organics were washed with water (100 mL), brine (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give a brown oil. The crude material was purified by silica gel chromatography (Isolera Biotage, 40 g Si Cartridge, 0-60% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I110) (0.397 g, 54% yield) as a brown oil; 1H NMR (400 MHz, CDCl3) δ 9.11 (s, 1H), 8.72 (s, 1H), 4.20 (q, J=7.1 Hz, 2H), 3.81 (s, 2H), 3.56 (s, 1H), 1.27 (t, J=7.1 Hz, 3H). LCMS Method C: rt 4.78 min; m/z 191.1 [M+H]+.

reactant | ethyl 2-(4-((triethylsilyl)ethynyl)pyrimidin-5-yl)acetate | 3.856 mmol, 1.174 g | C(C)[Si](CC)(CC)C#CC1=NC=NC=C1CC(=O)OCC | C16H24N2O2Si
reactant | acetic acid | 4.24 mmol, 0.243 mL | C(C)(=O)O | C2H4O2
reactant | TBAF | 4.049 mmol, 1.0 M, 4.049 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-ethynylpyrimidin-5-yl)acetate | 54% yield | C(#C)C1=NC=NC=C1CC(=O)OCC | C10H10N2O2
